US07884112B2
5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid N′-(tertbutyloxycarbonyl)hydrazide
To a solution of 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid (Preparation 8, 2.05 g, 10.4 mmol) in DMF (30 mL), tert-butyl carbazate (1.38 g, 10.4 mmol), DIPEA (3.5 mL, 20.4 mmol), HOBt (1.58 g, 10.3 mmol) and EDCI (2.54 g, 13.3 mmol) were added successively. The resulting solution was stirred for 12 h at rt before adding water and brine (1:1, 200 mL). The solution was extracted with ethyl acetate (4×50 mL) and the combined organic layers were washed with dilute hydrochloric acid (1N, 50 mL), dilute sodium hydroxide solution (1N, 50 mL) and brine. The organic layer was dried (MgSO4) and concentrated in vacuo to give a solid residue, which was purified by flash chromatography on silica gel (hexane/ethyl acetate, 1:3) to give the title compound. δH (CDCl3): 1.42 (9H, s), 7.19 (1H, s), 7.78 (1H, s), 8.60 (1H, s), 9.28 (1H, br s).

reactant | 5-chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid | 10.4 mmol, 2.05 g | ClC=1C=C2C(=CN1)NC(=C2)C(=O)O | C8H5ClN2O2
reactant | tert-butyl carbazate | 10.4 mmol, 1.38 g | C(NN)(=O)OC(C)(C)C | C5H12N2O2
reactant | DIPEA | 20.4 mmol, 3.5 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HOBt | 10.3 mmol, 1.58 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 13.3 mmol, 2.54 g | CCN=C=NCCCN(C)C | C8H17N3
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
solvent | brine | 200 mL | [Cl-].[Na+].O
solvent | water | O | H2O
product | 5-Chloro-1H-pyrrolo[2,3-c]pyridine-2-carboxylic acid N′-(tertbutyloxycarbonyl)hydrazide | C(C)(C)(C)OC(=O)NNC(=O)C1=CC=2C(=CN=C(C2)Cl)N1 | C13H15ClN4O3
